US08580957B2
To a suspension of 1H-1,2,3-benzotriazole (3.46 g, 29.1 mmol) in toluene (38 mL) was added 4-bromoaniline (5.09 g, 29.1 mmol) in toluene (4.7 mL) and the reaction mixture was bubbled with Argon gas then cooled to 0° C. Butanal (2.88 mL, 32 mmol) in toluene (4.7 mL) was added dropwise and the resulting mixture was allowed to warm to room temperature and stirred for 16 h before being treated with ethenylformamide (2.03 mL, 29.1 mmol), 4-methylbenzenesulfonic acid monohydrate (55.3 mg, 0.29 mmol). The resulting mixture was stirred at 72° C. for 3 h then cooled to room temperature and diluted with AcOEt (50 mL). The organic phase was washed with a 1M NaOH aqueous solution (20 mL), water (50 mL) then brine (50 mL), dried over MgSO4 and concentrated in vacuovacuo. The residue was recrystallised from petroleum/Et2O (1:10, 3×30 mL) to give [(cis)-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl]formamide (2.59 g, 29%) as a white solid.

reactant | 1H-1,2,3-benzotriazole | 29.1 mmol, 3.46 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 4-bromoaniline | 29.1 mmol, 5.09 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | Butanal | 32 mmol, 2.88 mL | C(CCC)=O | C4H8O
reactant | ethenylformamide | 29.1 mmol, 2.03 mL | C(=C)NC=O | C3H5NO
solvent | toluene | 38 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.7 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.7 mL | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
catalyst | 4-methylbenzenesulfonic acid monohydrate | 0.29 mmol, 55.3 mg | O.CC1=CC=C(C=C1)S(=O)(=O)O
product | [(cis)-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl]formamide | 2.59 g, 29% | BrC=1C=C2[C@@H](C[C@@H](NC2=CC1)CCC)NC=O | C13H17BrN2O
